US09284331B2
4-(isoquinolin-5-yl)morpholine
A mixture of 5-bromoisoquinoline (4.07 g, 19.6 mmol), morpholine (3.41 mL, 39.1 mmol), Cs2CO3 (12.75 g, 39.1 mmol), Pd(OAc)2 (220 mg, 0.98 mmol) and BINAP (609 mg, 0.98 mmol) in toluene (160 mL) was heated at 110° C. for 6 h under N2. The mixture was then concentrated in vacuo and the black residue obtained was taken up in DCM and filtered over Celite. The filtrate was concentrated in vacuo and the brown oil obtained was purified by flash chromatography (SiO2, cHex to AcOEt) to give the title compound (4.17 g) as a brown oil. UPLC-MS: MS 215.1 (M+H+); UPLC rt 0.57 min.

reactant | 5-bromoisoquinoline | 19.6 mmol, 4.07 g | BrC1=C2C=CN=CC2=CC=C1 | C9H6BrN
reactant | morpholine | 39.1 mmol, 3.41 mL | N1CCOCC1 | C4H9NO
reactant | Cs2CO3 | 39.1 mmol, 12.75 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 160 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd(OAc)2 | 0.98 mmol, 220 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | BINAP | 0.98 mmol, 609 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | 4-(isoquinolin-5-yl)morpholine | 4.17 g | C1=NC=CC2=C(C=CC=C12)N1CCOCC1 | C13H14N2O
